* C:\Users\Sneha Shree K\eda\designs\CEMS_DSM\DSM\LTSpice\DSM_using_VCCS.asc
Vin Vin 0 SINE({Voff} {Vamp} {freq})
Vphi1 phi1 0 PULSE(0V {VDD} 0 100n 100n 2u 4.5u)
VDD Vdd 0 {VDD}
Ci1 vx1 N001 {Ci1} ic=0V
VCM Vcm 0 {VCM}
Vphi2 phi2 0 PULSE(0V {VDD} 2.25u 100n 100n 2u 4.5u)
Ci2 vx2 N002 {Ci2} ic=0V
XX5 VDD 0 vq Vfb inv
A§DFF vq 0 phi1 0 0 0 vd 0 DFLOP
CS1 N004 N003 {Cs1}
S1 N003 vin phi1 0 switch
S2 Vfb N003 phi2 0 switch
S3 N004 N001 phi2 0 switch
S4 VCM N004 phi1 0 switch
CS2 N006 N005 {Cs2}
S5 N005 vx1 phi1 0 switch
S6 Vfb N005 phi2 0 switch
S7 N006 N002 phi2 0 switch
S8 VCM N006 phi1 0 switch
Etrip1 trip 0 Vdd 0 0.5
G1 0 vx1 VCM N001 5.7e-06
G2 0 vx2 VCM N002 5.7e-06
XX1 vx2 VCM vq VDD phi1 ideal_clocked_comparator

* block symbol definitions
.subckt inv Vdd Vss IN OUT
B1 Out 0 V=v(in)>v(vdd)/2?v(vss):v(vdd)
.ends inv

.subckt ideal_clocked_comparator Vinm Vinp Vout VDD Clock
E1 diff 0 Vinp Vinm 1
S3 sample diff tp Clock switch
S4 hold N001 Clock tp switch
C1 sample 0 100p
C2 hold 0 100p
Etp tp 0 Vdd 0 0.5
E2 N001 0 sample 0 1
B1 Vout 0 V=v(hold)>0?v(vdd):0
.model switch SW
.ic v(hold)=1 v(sample)=1
.ends ideal_clocked_comparator

.tran 450u 450u
.options plotwinsize=0
.param VDD=1.5
.param Vref=1.5
.param Vcm=VDD/2.0
.param Voff=Vcm
.param Vamp=1.4
.param freq=80
.param Cs1=0.3p Ci1=2.1p Cs2=0.2p Ci2=0.7p
.save v(vx1) v(vx2) v(phi1) v(phi2) v(vq) v(vd) v(vfb) v(vin)
* Save only node voltages of interest
.model switch sw ron=.1
* Switch control
* 10 periods for a better FFT
.backanno
.end
